US09340547B2
1-(4-Methoxybenzyl)-1H-pyrazol-4-amine
1-(4-Methoxybenzyl)-4-nitro-1H-pyrazole (2.17 g, 9.30 mmol) was dissolved in ethanol (20 ml). Ammonium chloride (50 mg, 0.93 mmol) and iron (powder, 2.60 g, 46.56 mmol) were added and the mixture was refluxed for 1 h. The reaction mixture was filtered through Celite® and the solvent was evaporated to dryness under reduced pressure. Usual work-up with water and ethyl acetate afforded 1.77 g (94% yield) of the title compound as an oil, which was used in the next synthetic step without further purification.

reactant | 1-(4-Methoxybenzyl)-4-nitro-1H-pyrazole | 9.30 mmol, 2.17 g | COC1=CC=C(CN2N=CC(=C2)[N+](=O)[O-])C=C1 | C11H11N3O3
reactant | Ammonium chloride | 0.93 mmol, 50 mg | [Cl-].[NH4+]
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | iron | 46.56 mmol, 2.60 g | [Fe] | Fe
product | 1-(4-Methoxybenzyl)-1H-pyrazol-4-amine | 1.77 g, 94% yield | COC1=CC=C(CN2N=CC(=C2)N)C=C1 | C11H13N3O
